US07304161B2
To a round bottom flask equipped with magnetic stirring and a nitrogen inlet was added methyl 3,4-dihydroxy-2-methylbenzoate (24.0 g, 132 mmol), (2R)-(−)-glycidyl tosylate (30.1 g, 132 mmol), potassium carbonate (21.8 g, 158 mmol), and DMF (264 mL). This mixture was heated to 60° C. for 5 hours. The mixture was cooled to room temperature, diluted with ether, and washed once with water. The aqueous wash was back extracted once with ether and the ethereal solutions combined. These organic solutions were then washed 3 times with saturated sodium chloride solution, dried over magnesium sulfate, filtered and evaporated to give a brown oil. This oil was chromatographed on silica gel eluting with 25% ether in hexanes to give a yellow oil, 3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid methyl ester, (24.6 g, 103 mmol) in 78% yield. 1H-NMR (300 MHz, CD3COCD3) δ (ppm): 2.42 (s, 2H), 3.80 (s, 3H), 3.83 (m, 1H), 4.12 (dd, 1H), 4.23 (m, 2H), 4.42 (dd, 1H), 6.75 (d, 1H), 7.42 (d, 1H); TLC Rf=0.40 (1:1 ethyl acetate/hexane).

reactant | methyl 3,4-dihydroxy-2-methylbenzoate | 132 mmol, 24.0 g | OC=1C(=C(C(=O)OC)C=CC1O)C | C9H10O4
reactant | (2R)-(−)-glycidyl tosylate | 132 mmol, 30.1 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]2CO2 | C10H12O4S
reactant | potassium carbonate | 158 mmol, 21.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 264 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid methyl ester | 103 mmol, 24.6 g, 78% yield | COC(=O)C1=C(C2=C(OCC(O2)CO)C=C1)C | C12H14O5
